US08242154B2
Aqueous sodium carbonate solution (1M, 614 μL, 0.614 mmol) was added to a solution of tert-butyl 2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoate (60 mg, 0.123 mmol), phenylboronic acid (17 mg, 0.135 mmol) and Pd(PPh3)4 (28 mg, 0.024 mmol) in toluene (2 mL) and THF (1 mL). The mixture was bubbled under nitrogen for 5 mins and then heated to 90° C. under nitrogen for 20 hours. After cooling to room temp, water (20 mL) was added and the aqueous layer extracted with dichloromethane (2×20 mL). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered, concentrated and purified by column chromatography (40% EtOAc/hexanes) to give tert-butyl 2-(4-(4-cyclopropylnaphthalen-1-yl)-5-phenyl-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoate as a brown oil (44 mg, 73%).

reactant | sodium carbonate | 0.614 mmol, 1M, 614 μL | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoate | 0.123 mmol, 60 mg | BrC=1N(C(=NN1)SC(C(=O)OC(C)(C)C)(C)C)C1=CC=C(C2=CC=CC=C12)C1CC1 | C23H26BrN3O2S
reactant | phenylboronic acid | 0.135 mmol, 17 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.024 mmol, 28 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 2-(4-(4-cyclopropylnaphthalen-1-yl)-5-phenyl-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoate | 44 mg, 73% | C1(CC1)C1=CC=C(C2=CC=CC=C12)N1C(=NN=C1C1=CC=CC=C1)SC(C(=O)OC(C)(C)C)(C)C | C29H31N3O2S
